US08648200B2
1-[2-Methyl-4-(trifluoromethyl)phenyl]propan-1-one
Cool a solution of 1-bromo-2-methyl-4-(trifluoromethyl)benzene (2.00 g, 8.367 mmol) and THF (17 mL) to −71° C., and then add n-butyl lithium (2.5 M in hexanes, 9.204 mmol, 3.681 mL) over 5 minutes. Stir the mixture for 15 minutes at −71° C. Add N-methoxy-N-methylpropanamide (0.980 g, 8.367 mmol) to the mixture drop-wise over 3-4 minutes keeping temperature below −65° C. Continue to stir the solution at −71° C. for 15-20 minutes; then warm the solution to room temperature. Stir at room temperature for 40 minutes. Quench the reaction with a saturated ammonium chloride aqueous solution. Extract the aqueous layer with Et2O. Wash the combined organic extracts with water and brine. Dry the mixture over sodium sulfate; filter; collect the filtrate; and concentrate the filtrate under reduced pressure. Purify the residue by flash chromatography (40 g RediSep® column) eluting with a gradient of 0-40% DCM/pentane to give the title compound as a colorless oil (1.490 g, 82% yield). 1H NMR (399.80 MHz, d6-DMSO) δ 7.84 (d, J=7.8 Hz, 1H), 7.64-7.61 (m, 2H), 2.93 (q, J=7.1 Hz, 2H), 2.39 (s, 3H), 1.03 (t, J=7.2 Hz, 3H).

reactant | 1-bromo-2-methyl-4-(trifluoromethyl)benzene | 8.367 mmol, 2.00 g | BrC1=C(C=C(C=C1)C(F)(F)F)C | C8H6BrF3
reactant | n-butyl lithium | 9.204 mmol, 2.5 M, 3.681 mL | C(CCC)[Li]
reactant | N-methoxy-N-methylpropanamide | 8.367 mmol, 0.980 g | CON(C(CC)=O)C | C5H11NO2
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 1-[2-Methyl-4-(trifluoromethyl)phenyl]propan-1-one | 1.490 g, 82% yield | CC1=C(C=CC(=C1)C(F)(F)F)C(CC)=O | C11H11F3O
